US07790709B2
Preparation of (E)-N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting methyl-(1-methyl-1H-indol-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (355 mg, 61%) was prepared as a pale yellow solid: 1H NMR (300 MHz, DMSO-d6) δ 10.16-9.98 (m, 2H), 8.42-8.37 (m, 1H), 8.00-7.92 (m, 1H), 7.58-7.39 (m, 3H), 7.24-6.99 (m, 3H), 6.42-6.15 (m, 1H), 5.06-4.85 (m, 2H), 4.57-4.51 (m, 2H), 4.00-3.97 (m, 2H), 3.73-3.37 (m, 11H), 3.15-2.98 (m, 5H); MS (ESI) m/e 489 (M+H)+.

reactant | (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride | Cl.N1(CCOCC1)CCN1C(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | methyl-(1-methyl-1H-indol-2-ylmethyl)amine | CNCC=1N(C2=CC=CC=C2C1)C | C11H14N2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-N-Methyl-N-(1-methyl-1H-indol-2-ylmethyl)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride | 355 mg, 61% | Cl.CN(C(\C=C\C1=CC2=C(NC(N(C2)CCN2CCOCC2)=O)N=C1)=O)CC=1N(C2=CC=CC=C2C1)C | InChI=1S/C27H32N6O3.ClH/c1-30(19-23-16-21-5-3-4-6-24(21)31(23)2)25(34)8-7-20-15-22-18-33(27(35)29-26(22)28-17-20)10-9-32-11-13-36-14-12-32;/h3-8,15-17H,9-14,18-19H2,1-2H3,(H,28,29,35);1H/b8-7+;
